US07323475B2
b) [(4-Phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid
A mixture of [(4-Phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester (144 mg, 0.45 mmol), KOH (325 mg, 5 mmol) and EtOH (10 ml) was stirred at ambient temperature for 18 h before the solvent was evaporated in vacuo. The residue was dissolved in water. The pH of the solution was adjusted to 3-4 by addition of concentrated aqueous HCl. The solution was then extracted with EtOAc (2×25 ml). The combined organic phases were dried over MgSO4 and concentrated in vacuo to give the title compound as a yellowish solid (127 mg); MS-(+)-ion: M+1=307.1.

reactant | [(4-Phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester | 0.45 mmol, 144 mg | COC(CNC(=O)C=1N=CC2=CC=CC=C2C1C1=CC=CC=C1)=O | C19H16N2O3
reactant | KOH | 5 mmol, 325 mg | [OH-].[K+]
solvent | EtOH | 10 ml | CCO | C2H6O
product | [(4-Phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid | 127 mg | C1(=CC=CC=C1)C1=C(N=CC2=CC=CC=C12)C(=O)NCC(=O)O | C18H14N2O3
